US07381728B2
Step 2: cis-3,5-Dimethyl-1-{3-nitro-4-[(phenylmethyl)oxy]phenyl}piperazine
To a solution of 4-bromo-2-nitro-1-[(phenylmethyl)oxy]benzene (7.0 g, 22.7 mmol) in dioxane (120 ml) was added cis-2,6-dimethylpiperazine (7.8 g, 67.4 mmol) followed by cesium carbonate (11.0 g, 33.8 mmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binapthyl (2.1 g, 3.4 mmol) and palladium acetate (516 mg, 2.3 mmol). The resulting mixture was heated at 100° C. under an atmosphere of argon overnight. The mixture was allowed to cool, charcoal was added and the mixture stirred at room temperature for 30 minutes. The solids were then removed by filtration through celite and the residue washed with ethyl acetate. The filtrate was then reduced in vacuo and the residue dissolved in 2M aqueous hydrochloric acid and ethyl acetate added. A yellow solid formed that was immiscible in both phases so the mixture was filtered and the solid washed with ethyl acetate. The biphasic filtrate was then separated and the aqueous layer washed with more ethyl acetate. The aqueous was then basified with 0.880 ammonia and the yellow solid collected by filtration added. The resulting basified aqueous solution was then extracted with dichloromethane (×2) and the combined dichloromethane layers dried over anhydrous magnesium sulfate, filtered and reduced in vacuo. The residue was then purified by chromatography on silica gel (gradient 0 to 15% methanol in dichloromethane) to afford the title product. MS (ES+) m/e 342 [M+H]+.

reactant | 4-bromo-2-nitro-1-[(phenylmethyl)oxy]benzene | 22.7 mmol, 7.0 g | BrC1=CC(=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-] | C13H10BrNO3
reactant | cis-2,6-dimethylpiperazine | 67.4 mmol, 7.8 g | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | cesium carbonate | 33.8 mmol, 11.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binapthyl | 3.4 mmol, 2.1 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | charcoal | C | CH4
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 2.3 mmol, 516 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | cis-3,5-Dimethyl-1-{3-nitro-4-[(phenylmethyl)oxy]phenyl}piperazine | C[C@@H]1CN(C[C@@H](N1)C)C1=CC(=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-] | C19H23N3O3
